Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine
 
Attending: ___.
 
Chief Complaint:
hematemisis; abdominal pain
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
Mrs. ___ is a ___ with PMH significant for morbid obesity 
s/p gastric bypass, multiple GI surgeries including J-tube c/b 
perforated colon, CCY, history of recurrent esophageal 
candidiasis, DVT/PE and recent stroke previously on warfarin, 
who was recently admitted for workup of melena in the context of 
anemic HGB 8.7. EGD ___ showed severe esophagitis but otherwise 
unremarkable surgical anatomy. She was given 2 units PRBC and 
started pantoprazole. 

She was discharged one week ago, and in that time she reports 
continued black stools. This morning at 11AM she had abdominal 
pain and vomited coffee grinds. She had a second episode and was 
brought to the ED. She reports three days of black stools.

In the ED, initial vitals were:  97.4 66 131/81 12 95% ra, with 
pressures settling out in the 90's systolic occasionally the 
80's.
- Labs were significant for HGB 10.3 compared to discharg HGB 
10.8.  
- Imaging revealed CXR neg for free air, CT head negative.  

Upon arrival to the floor, she reports diffuse lower abdominal 
pain. 

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, lightheadedness, chest pain/pressure, 
headache, dysuria. 

Transitional Issues*
- Anticoagulation: patient needs repeat INR within 2 days after 
discharge. Can discontinue lovenox when therapeutic (INR ___ 
for at least 24 hours.
- Chronic abdominal pain: Patient will require close followup to 
assess best analgesic regimen while minimizing side effects 
(e.g. constipation). 
- Consider need for outpatient colonscopy as clinically 
indicated. 
 
Past Medical History:
- Morbid obesity status post gastric bypass and cholecystectomy 
in ___ with subsequent reversal surgery at the ___ - 
multiple prior abdominal surgeries including a J-tube in ___ 
with apparent complication of a perforated colon.  
- History of recurrent esophageal candidiasis s/p treatment  
- History of hypertension, DM, and asthma prior to gastric 
bypass.  
- DVT and PE in ___ on warfarin.  
- CVA with residual Lt sided weakness and slurred speech  
- History of SBO  
- Chronic pain  
- History of opiate addiction: prior intranasal heroin, oral 
dilaudid abuse, on methaone.  
- Degenerative disc disease  
- Depression/anxiety  

 
Social History:
___
Family History:
Mother with diabetes and HTN. 
 
Physical Exam:
Vitals:  Tc 98.5  BP 92/55 (92/55-111/84)  HR 95 (62-95) RR 18 
99% on RA
Tele: no alarms, HR stable in the ___
General:  elderly woman sitting in bed in pain, tearful 
HEENT:  anicteric sclera, no conjunctival pallor, OP clear with 
MMM.
Neck: Supple, R IJ in place, bleeding 
Lungs:  clear to auscultation bilaterally, no wheezes, rhonchi 
or crackles
CV: RRR, no m/r/g
Abdomen:  normoactive bowel sounds; soft-well healed midline 
scar with some subcutaneous nodules, tender to palpation in the 
mid-epigastrum, nondistended
Ext: warm, well-perfused; no edema
Neuro: moving all four limbs spontaneously, A&O x3 
  

 
Pertinent Results:
___ 05:06AM BLOOD WBC-3.9* RBC-3.05* Hgb-9.9* Hct-31.0* 
MCV-102* MCH-32.5* MCHC-31.9* RDW-14.5 RDWSD-54.4* Plt ___
___ 05:06AM BLOOD ___
___ 05:06AM BLOOD Glucose-73 UreaN-10 Creat-0.7 Na-144 
K-4.3 Cl-103 HCO3-30 AnGap-15

CT Scan Abdomen: ___
IMPRESSION.
1. Status post reversal of Roux-en-Y gastric bypass.  Oral 
contrast extends to 
the mid duodenum without evidence of leak or fistula.  Unchanged 
distention of 
the reconstructed small bowel with fecalized material is likely 
chronic and 
post surgical in nature.  No evidence of obstruction. 
2. Unchanged mild diffuse intra- and extrahepatic biliary ductal 
dilation.  
Unchanged mild prominence of the main pancreatic duct in the 
head and body of 
the pancreas. 
3. Status post cholecystectomy. 
  

 
Brief Hospital Course:
___ y/o F with hx of PE, strokes now on Coumadin, multiple GI 
surgeries, presents after episode of coffee ground emesis. She 
had a repeat EGD with improving esophagitis that required no 
intervention. KUB notable for significant constipation. The 
patient had a stable hematocrit throughout the hospitalization 
and no further episodes of hematemesis. She was slowly 
uptitrated back to home dose of coumadin while being bridged 
with lovenox. On the day of discharge, her INR was 1.6.

Due to ongoing abdominal pain, patient had a CT scan of the 
abdomen to assess for potential fistula or other etiologies of 
pain given her multiple past bowel surgeries, which showed 
chronic bile duct dilation but no evidence of fistula, 
obstruction, or other pathologies. 

*Transitional Issues*
***ANTICOAGULATION: Patient will receive LOVENOX twice daily. 
She will require INR check within 2 days of discharge. Please 
titrate Coumadin to INR goal of ___. Please discontinue LOVENOX 
when INR at goal for >24 hours.
***PLEASE ASSIST WITH MEDICATIONS

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. Calcium Carbonate 1000 mg PO QID:PRN GI distress 
3. ClonazePAM 1.5 mg PO QHS 
4. ClonazePAM 0.5 mg PO DAILY at 8 am 
5. ClonazePAM 1 mg PO DAILY 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Docusate Sodium 100 mg PO QHS 
8. Doxepin HCl 100 mg PO HS 
9. Lidocaine Viscous 2% 15 mL PO TID:PRN esophagitis pain 
10. Guaifenesin ___ mL PO Q6H:PRN cough 
11. Methadone 20 mg PO Q8H 
12. Multivitamins 1 TAB PO DAILY 
13. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN pain 
14. QUEtiapine Fumarate 300 mg PO HS 
15. Sucralfate 1 gm PO QID 
16. Senna 8.6 mg PO QHS 
17. QUEtiapine Fumarate 100 mg PO QAM 
18. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
19. Pantoprazole 40 mg PO Q12H 
20. Ondansetron 4 mg PO Q8H:PRN nausea 
21. FoLIC Acid 1 mg PO DAILY 
22. cranberry 2 tabs oral BID 
23. Ascorbic Acid ___ mg PO TID 
24. Vitamin D 50,000 UNIT PO MONTHLY 
25. Ferrous Sulfate 325 mg PO TID 
26. Furosemide 20 mg PO DAILY 
27. Lidocaine 5% Patch 1 PTCH TD QAM 
28. Simethicone 120 mg PO TID abdominal pain 
29. Warfarin 15 mg PO DAILY16 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO TID 
2. BuPROPion (Sustained Release) 150 mg PO BID 
3. Calcium Carbonate 1000 mg PO QID:PRN GI distress 
4. ClonazePAM 1.5 mg PO QHS 
5. ClonazePAM 0.5 mg PO DAILY at 8 am 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Docusate Sodium 100 mg PO QHS 
8. FoLIC Acid 1 mg PO DAILY 
9. Guaifenesin ___ mL PO Q6H:PRN cough 
10. Lidocaine 5% Patch 1 PTCH TD QAM 
11. Lidocaine Viscous 2% 15 mL PO TID:PRN esophagitis pain 
12. Methadone 20 mg PO Q8H 
13. Multivitamins 1 TAB PO DAILY 
14. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN pain 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. QUEtiapine Fumarate 300 mg PO HS 
17. QUEtiapine Fumarate 100 mg PO QAM 
18. Simethicone 120 mg PO TID abdominal pain 
19. Sucralfate 1 gm PO QID 
20. Enoxaparin Sodium 90 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
Please take until you achieve an INR of ___ on coumadin. 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC twice a day Disp #*1 
Syringe Refills:*0
21. cranberry 2 tabs oral BID 
22. Ferrous Sulfate 325 mg PO TID 
23. Furosemide 20 mg PO DAILY 
24. Ondansetron 4 mg PO Q8H:PRN nausea 
25. Pantoprazole 40 mg PO Q12H 
26. Senna 8.6 mg PO QHS 
27. Vitamin D 50,000 UNIT PO MONTHLY 
28. Warfarin 15 mg PO DAILY16 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
primary diagnosis: hematemesis, esophagitis.

secondary diagnosis: constipation, chronic post-surgical 
abdominal pain. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you while you were admitted to 
___.You first came to the hospital because you 
were experiencing some vomiting with blood. Our 
gastroenterologist took another look down your throat with a 
camera and saw irritation of your esophagus that has improved 
compared to the last study. However, we still believe that this 
is the source of your bleeding. We temporarily stopped your 
coumadin to reduce the risk of further bleeding. We monitored 
your blood work to make sure you weren't continuing to lose 
blood and the values remained stable. We then restarted your 
anticouagulation on coumadin slowly and gave you another 
medication, lovenox, to keep your blood the coumadin works. 
You will need to take the lovenox until your INR is stable 
between ___. You can have your blood measured as an outpatient. 

Also during this hospitalization, you had worsening of your 
abdominal pain. This pain is most likely related to the irration 
of your esophagus provoked while vomiting. The Gastroenterology 
doctors also performed ___ abdominal Xray which showed that you 
were severely constipated. This can result from taking opioid 
pain relievers. The GI doctors also repeated a CAT scan of your 
stomach. There was no evidence of a fistula or any other 
concerning findings on this image. 

Please ensure that you get your INR measured soon so that your 
coumadin can be dosed properly.
 
Followup Instructions:
___